US09126950B2
In a 50 mL, 3-neck RBF equipped with a magnetic stirrer, reflux condenser, and thermo pocket were sequentially charged 4-fluoro nitrobenzene (2.00 g), Cs2CO3 (9.21 g) and ethylene glycol (20 mL). The reaction mixture was heated to 80° C. for 30 minutes. The reaction was monitored on TLC using Hexane:Ethyl acetate (7:3) as mobile phase. After completion of the reaction, the reaction mixture was cooled to room temperature and poured into cold water. Solid precipitate was filtered and washed with water. Solid was dried under reduced pressure at 45° C. for 1 hr. 2.70 g of 2-(4-nitrophenoxy)ethanol was obtained as a solid and was taken for the next step without further purification.

reactant | 4-fluoro nitrobenzene | 2.00 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 9.21 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethylene glycol | 20 mL | C(CO)O | C2H6O2
reactant | Hexane Ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 2-(4-nitrophenoxy)ethanol | 2.70 g | [N+](=O)([O-])C1=CC=C(OCCO)C=C1 | C8H9NO4
